US04007282
Bis(4'-hydroxy-3',5'-di-tert.-butyl-phenyl)ethanoic acid
103 g of 2,6-di-tert.-butyl-phenol (0.5 mol) and 21 g of glyoxylic acid (0.25 mol) of (CHO.COOH) . 1/2 H2O) were dissolved in 300 ml of carbon tetrachloride and stirred at 50° C for about 40 hours. During the first 6 hours, a weak hydrogen chloride stream was passed through the solution, later saturation was completed from time to time by feeding in hydrogen chloride. After condensation was complete, the solvent was eliminated. The product obtained in a pasty form was dissolved and precipitated several times from hexane. The crystallized compound having a faint yellowish tinge melted at 211° C.

reactant | 2,6-di-tert.-butyl-phenol | 0.5 mol, 103 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | glyoxylic acid | 0.25 mol, 21 g | C(C=O)(=O)O | C2H2O3
reactant | H2O | O | H2O
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hydrogen chloride | Cl | ClH
product | Bis(4'-hydroxy-3',5'-di-tert.-butyl-phenyl)ethanoic acid | OC1=C(C=C(C=C1C(C)(C)C)C(C(=O)O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)(C)C | C30H44O4
